US04294843
2-Aminobenzenethiol (5.0 g, 0.04 mol) was dissolved in a solution of sodium (0.92 g, 0.04 mol) in ethanol (50 ml) and 3,5-di(chloromethyl)-1,2,4-oxadiazole (3.3 g, 0.02 mol) was added. After filtration of the mixture, the filtrate was collected and the solvent removed to yield the crude product which on re-crystallisation from isopropanol gave 3,5,-di-(2-aminophenylthiomethyl)-1,2,4-oxadiazole, m.p. 68°.

reactant | 2-Aminobenzenethiol | 0.04 mol, 5.0 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | sodium | 0.04 mol, 0.92 g | [Na] | Na
reactant | 3,5-di(chloromethyl)-1,2,4-oxadiazole | 0.02 mol, 3.3 g | ClCC1=NOC(=N1)CCl | C4H4Cl2N2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3,5,-di-(2-aminophenylthiomethyl)-1,2,4-oxadiazole | NC1=C(C=CC=C1)SCC1=NOC(=N1)CSC1=C(C=CC=C1)N | C16H16N4OS2
